### PR TITLE
[Merged by Bors] - feat port Algebra.GroupPower.Lemmas

### PR DESCRIPTION
**Pull request by riccardobrasca**
aba57d4d3dae35460225919dcd82fe91355162f9

- [x] depends on #1043 
- [x] depends on #1050

### CODE REVIEW

File: Mathlib/Algebra/GroupPower/Lemmas.lean [hunk 1]
```diff
@@ -2,35 +2,1345 @@
...
+import Mathlib.Algebra.Order.Monoid.WithTop
+import Mathlib.Data.Nat.Pow
 import Mathlib.Data.Int.Cast.Lemmas
-import Mathlib.Algebra.GroupPower.Basic
 
 /-!
 # Lemmas about power operations on monoids and groups
 
 This file contains lemmas about `monoid.pow`, `group.pow`, `nsmul`, `zsmul`
 which require additional imports besides those available in `algebra.group_power.basic`.
```
Comment (semorrison) [inline Mathlib/Algebra/GroupPower/Lemmas.lean:22]:
```suggestion
This file contains lemmas about `Monoid.pow`, `Group.pow`, `nsmul`, and `zsmul`
which require additional imports besides those available in `Mathlib.Algebra.GroupPower.Basic`.
```
Comments should be updated too.

File: Mathlib/Algebra/GroupPower/Lemmas.lean [hunk 2]
```diff
@@ -2,35 +2,1345 @@
...
+#align zpow_sub zpow_sub
+
+@[to_additive one_add_zsmul]
+theorem zpow_one_add (a : G) (i : ℤ) : a ^ (1 + i) = a * a ^ i := by rw [zpow_add, zpow_one]
+#align zpow_one_add zpow_one_add
+
+@[to_additive]
+theorem zpow_mul_comm (a : G) (i j : ℤ) : a ^ i * a ^ j = a ^ j * a ^ i :=
+  (Commute.refl _).zpow_zpow _ _
+#align zpow_mul_comm zpow_mul_comm
```
Comment (semorrison) [inline Mathlib/Algebra/GroupPower/Lemmas.lean:240]: All #align statements need to be duplicated for the to_additive versions. (This will be automated soon, but are still needed in this PR.)

File: Mathlib/Algebra/GroupPower/Lemmas.lean [hunk 3]
```diff
@@ -2,35 +2,1345 @@
...
+
+end bit1
+
+end Group
+
+/-!
+### `zpow`/`zsmul` and an order
+
+Those lemmas are placed here (rather than in `Algebra.GroupPower.Order` with their friends) because
+they require facts from `Data.Int.Basic`.
```
Comment (semorrison) [inline Mathlib/Algebra/GroupPower/Lemmas.lean:259]:
```suggestion
Those lemmas are placed here (rather than in `Mathlib.Algebra.GroupPower.Order` with their friends) because
they require facts from `Mathlib.Data.Int.Basic`.
```

File: Mathlib/Algebra/GroupPower/Lemmas.lean [hunk 4]
```diff
@@ -2,35 +2,1345 @@
...
+  · exact abs_add_eq_add_abs_le ab
+  · rw [add_comm a, add_comm (abs _), abs_add_eq_add_abs_le ab, and_comm, @and_comm (b ≤ 0)]
+#align abs_add_eq_add_abs_iff abs_add_eq_add_abs_iff
+
+end LinearOrderedAddCommGroup
+
+-- Porting note: commented out as linter reports LHS= RHS syntactically
+-- @[simp]
+-- theorem WithBot.coe_nsmul [AddMonoid A] (a : A) (n : ℕ) : ((n • a : A) : WithBot A) = n • a :=
+--   by simp
```
Comment (semorrison) [inline Mathlib/Algebra/GroupPower/Lemmas.lean:430]: Actually the linter is not telling you to comment it out, but rather to fix the statement:
```
@[simp]
theorem WithBot.coe_nsmul [AddMonoid A] (a : A) (n : ℕ) : (n • a : A) = n • (a : WithBot A) :=
  AddMonoidHom.map_nsmul
    { toFun := fun a : A => (a : WithBot A), 
      map_zero' := WithBot.coe_zero, 
      map_add' := WithBot.coe_add }
    a n
```

Comment (semorrison) [reply Mathlib/Algebra/GroupPower/Lemmas.lean:430]: Probably the similar one below needs the same treatment.

File: Mathlib/Algebra/GroupPower/Lemmas.lean [hunk 5]
```diff
@@ -2,35 +2,1345 @@
...
+  forall {R : Type.{u1}} [_inst_1 : Semiring.{u1} R] (a : R) (n : Nat),
+   Eq.{succ u1} R (HSMul.hSMul.{0, u1, u1} Nat R R (instHSMul.{0, u1}
+   Nat R (AddMonoid.SMul.{u1} R (AddMonoidWithOne.toAddMonoid.{u1} R
+   (AddCommMonoidWithOne.toAddMonoidWithOne.{u1} R (NonAssocSemiring.toAddCommMonoidWithOne.{u1} R
+   (Semiring.toNonAssocSemiring.{u1} R _inst_1)))))) n a)
+   (HMul.hMul.{u1, u1, u1} R R R (instHMul.{u1} R
+   (NonUnitalNonAssocSemiring.toMul.{u1} R (NonAssocSemiring.toNonUnitalNonAssocSemiring.{u1}
+   R (Semiring.toNonAssocSemiring.{u1} R _inst_1)))) a
+   (Nat.cast.{u1} R (Semiring.toNatCast.{u1} R _inst_1) n))
+Case conversion may be inaccurate. Consider using '#align nsmul_eq_mul' nsmul_eq_mul'ₓ'. -/
```
Comment (semorrison) [inline Mathlib/Algebra/GroupPower/Lemmas.lean:458]: These warnings should be removed, and add an `ₓ` to the end of the #align, along with a comment, e.g.
`-- typeclasses do not match up exactly`.

File: Mathlib/Algebra/GroupPower/Lemmas.lean [hunk 6]
```diff
@@ -2,35 +2,1345 @@
...
+     (NonAssocSemiring.toNonUnitalNonAssocSemiring.{u1} R
+     (Semiring.toNonAssocSemiring.{u1} R _inst_1))))
+     (Nat.cast.{u1} R (Semiring.toNatCast.{u1} R _inst_1) n) a)
+Case conversion may be inaccurate. Consider using '#align nsmul_eq_mul nsmul_eq_mulₓ'. -/
+@[simp]
+theorem nsmul_eq_mul [NonAssocSemiring R] (n : ℕ) (a : R) : n • a = n * a := by
   rw [nsmul_eq_mul', (n.cast_commute a).eq]
+#align nsmul_eq_mul nsmul_eq_mul
+
+/-- Note that `add_comm_monoid.nat_smul_comm_class` requires stronger assumptions on `R`. -/
```
Comment (semorrison) [inline Mathlib/Algebra/GroupPower/Lemmas.lean:496]: Fix casing in comments, here and below.

File: Mathlib/Algebra/GroupPower/Lemmas.lean [hunk 7]
```diff
@@ -2,35 +2,1345 @@
...
+  · rw [_root_.pow_succ', _root_.pow_succ', Nat.cast_mul, ih]
+#align nat.cast_pow Nat.cast_pow
+
+-- Porting note: `norm_cast` attribute removed.
+/- Porting note `simp` attribute removed as suggested by linter:
+simp can prove this:
+  by simp only [Nat.cast_pow]
+-/
+-- Porting note: commented out as linter reports LHS= RHS syntactically
+-- -- @[simp]
```
Comment (semorrison) [inline Mathlib/Algebra/GroupPower/Lemmas.lean:529]: These porting notes seem to conflict / overlap?

File: Mathlib/Algebra/GroupPower/Lemmas.lean [hunk 8]
```diff
@@ -2,35 +2,1345 @@
...
+#align zpowers_mul_hom_apply zpowers_mul_hom_apply
+
+@[simp]
+theorem zpowers_mul_hom_symm_apply [CommGroup G] (f : Multiplicative ℤ →* G) :
+    (zpowersMulHom G).symm f = f (Multiplicative.ofAdd 1) :=
+  rfl
+#align zpowers_mul_hom_symm_apply zpowers_mul_hom_symm_apply
+
+@[simp]
+theorem multiples_add_hom_apply [AddCommMonoid A] (x : A) (n : ℕ) : multiplesAddHom A x n = n • x :=
```
Comment (semorrison) [inline Mathlib/Algebra/GroupPower/Lemmas.lean:1057]:
```suggestion
theorem multiplesAddHom_apply [AddCommMonoid A] (x : A) (n : ℕ) : multiplesAddHom A x n = n • x :=
```
Please check for other similar occurrences.

File: Mathlib/Algebra/GroupPower/Lemmas.lean (hunk 2 above)
Comment (siddhartha-gadgil) [reply Mathlib/Algebra/GroupPower/Lemmas.lean:240]: What are the names of the `to_additive` theorems that need to be aligned? Is it replacing `mul` by `add`?

File: Mathlib/Algebra/GroupPower/Lemmas.lean (hunk 4 above)
Comment (siddhartha-gadgil) [reply Mathlib/Algebra/GroupPower/Lemmas.lean:430]: Thanks. Fixed one. For the other I will wait for @riccardobrasca as it involves his work.

File: Mathlib/Algebra/GroupPower/Lemmas.lean (hunk 7 above)
Comment (siddhartha-gadgil) [reply Mathlib/Algebra/GroupPower/Lemmas.lean:529]: Came up in different rounds of linting. Will try to fix.

File: Mathlib/Algebra/GroupPower/Lemmas.lean (hunk 4 above)
Comment (siddhartha-gadgil) [reply Mathlib/Algebra/GroupPower/Lemmas.lean]: Fixed here and below.

File: Mathlib/Algebra/GroupPower/Lemmas.lean (hunk 2 above)
Comment (siddhartha-gadgil) [reply Mathlib/Algebra/GroupPower/Lemmas.lean:259]: Done, thanks

File: Mathlib/Algebra/GroupPower/Lemmas.lean [hunk 9]
```diff
@@ -2,35 +2,1316 @@
...
+instance NonUnitalNonAssocSemiring.nat_smul_comm_class [NonUnitalNonAssocSemiring R] :
+    SMulCommClass ℕ R R :=
+  ⟨fun n x y => by
+    induction' n with n ih
+    · simp [zero_nsmul]
+    · simp_rw [succ_nsmul, smul_eq_mul, mul_add, ← smul_eq_mul, ih]⟩
+#align
+  non_unital_non_assoc_semiring.nat_smul_comm_class NonUnitalNonAssocSemiring.nat_smul_comm_class
+
+/-- Note that `AddCommMonoid.nat_is_scalar_tower` requires stronger assumptions on `R`. -/
```
Comment (kbuzzard) [inline Mathlib/Algebra/GroupPower/Lemmas.lean:496]: That looks like a comment rather than a docstring, but I see it was in mathlib3 too...

File: Mathlib/Algebra/GroupPower/Lemmas.lean [hunk 10]
```diff
@@ -2,35 +2,1316 @@
...
+  non_unital_non_assoc_semiring.nat_is_scalar_tower NonUnitalNonAssocSemiring.nat_is_scalar_tower
+
+@[simp, norm_cast]
+theorem Nat.cast_pow [Semiring R] (n m : ℕ) : (↑(n ^ m) : R) = (↑n : R) ^ m := by
+  induction' m with m ih
+  · simp
+  · rw [_root_.pow_succ', _root_.pow_succ', Nat.cast_mul, ih]
+#align nat.cast_pow Nat.cast_pow
+
+-- Porting note: `norm_cast` attribute removed.
```
Comment (kbuzzard) [inline Mathlib/Algebra/GroupPower/Lemmas.lean:513]: Why?

File: Mathlib/Algebra/GroupPower/Lemmas.lean [hunk 11]
```diff
@@ -2,35 +2,1316 @@
...
+
+theorem zsmul_int_one (n : ℤ) : n • (1 : ℤ) = n := by simp
+#align zsmul_int_one zsmul_int_one
+
+@[simp, norm_cast]
+theorem Int.cast_pow [Ring R] (n : ℤ) (m : ℕ) : (↑(n ^ m) : R) = (↑n : R) ^ m := by
+  induction' m with m ih
+  · rw [pow_zero, pow_zero, Int.cast_one]
+  · rw [pow_succ, pow_succ, Int.cast_mul, ih]
+#align int.cast_pow Int.cast_powₓ
```
Comment (kbuzzard) [inline Mathlib/Algebra/GroupPower/Lemmas.lean:594]: Do you really mean to leave the little x? My guess/hope is that whatever the difference is, it doesn't matter, because the declarations are "morally the same". Add "porting note"? It looks like the problem is simply that casts changed but I don't think other lemmas which use this are going to care.

File: Mathlib/Algebra/GroupPower/Lemmas.lean [hunk 12]
```diff
@@ -2,35 +2,1316 @@
...
+
+Left-hand side simplifies from
+  ↑(Int.natAbs x ^ 2)
+to
+  ↑(Int.natAbs x) ^ 2
+using
+  simp only [Nat.cast_pow]
+Try to change the left-hand side to the simplified term!
+
+- Porting note: because of `HMul` more type annotations are needed than in the Lean 3 version.
```
Comment (kbuzzard) [inline Mathlib/Algebra/GroupPower/Lemmas.lean:750]: How about
```
theorem nat_abs_sq (x : ℤ) : ↑(x.natAbs ^ 2) = x ^ 2 := by rw [sq, Int.natAbs_mul_self, sq]
```
then?

File: Mathlib/Algebra/GroupPower/Lemmas.lean [hunk 13]
```diff
@@ -2,35 +2,1316 @@
...
+
+/- Porting note: removed `@[simp]` because of linter error:
+
+Left-hand side simplifies from
+  ↑(Int.natAbs x ^ 2)
+to
+  ↑(Int.natAbs x) ^ 2
+using
+  simp only [Nat.cast_pow]
+Try to change the left-hand side to the simplified term!
```
Comment (kbuzzard) [inline Mathlib/Algebra/GroupPower/Lemmas.lean:748]: If the simplifier doesn't like it, why not also add the simp lemma which it does like, with the left hand side changed as it suggests, and tag that `simp` instead?

File: Mathlib/Algebra/GroupPower/Lemmas.lean [hunk 14]
```diff
@@ -2,35 +2,1316 @@
...
+/-- Monoid homomorphisms from `multiplicative ℕ` are defined by the image
+of `multiplicative.of_add 1`. -/
+def powersHom [Monoid M] :
+    M ≃
+      (Multiplicative ℕ →* M) where
+  toFun : M → Multiplicative ℕ →* M :=
+  fun x =>
+    { toFun := fun n : ℕ  =>
+        let n' := Multiplicative.toAdd n
+        x ^ n'
```
Comment (kbuzzard) [inline Mathlib/Algebra/GroupPower/Lemmas.lean:796]:
```suggestion
    { toFun := fun n  =>
        x ^ (Multiplicative.toAdd n)
```
I'm worried that your version leaves a let binding in a definition.

File: Mathlib/Algebra/GroupPower/Lemmas.lean [hunk 15]
```diff
@@ -2,35 +2,1316 @@
...
+    rwa [← one_add_one_eq_two, neg_add, ← sub_eq_add_neg, sub_le_sub_iff_right]
+  simpa only [add_sub_cancel'_right] using one_add_mul_le_pow this n
+#align one_add_mul_sub_le_pow one_add_mul_sub_le_pow
+
+end LinearOrderedRing
+
+namespace Int
+
+#check Nat.cast_pow
+
```
Comment (kbuzzard) [inline Mathlib/Algebra/GroupPower/Lemmas.lean:739]:
```suggestion
```

**Review by kbuzzard — COMMENTED** [review]
(comments up to line 800)

File: Mathlib/Algebra/GroupPower/Lemmas.lean (hunk 14 above)
Comment (kbuzzard) [reply Mathlib/Algebra/GroupPower/Lemmas.lean:796]:
```
      map_one' := pow_zero x
      map_mul' := pow_add x
```

File: Mathlib/Algebra/GroupPower/Lemmas.lean [hunk 16]
```diff
@@ -2,35 +2,1316 @@
...
+      (Multiplicative ℤ →*
+        G) where
+  toFun: G → Multiplicative ℤ →* G :=
+  fun x => {
+    toFun := fun n : ℤ  =>
+      let n' := Multiplicative.toAdd n
+      x ^ n'
+    map_one' := zpow_zero x
+    map_mul' := fun m n => zpow_add x m n
+    }
```
Comment (kbuzzard) [inline Mathlib/Algebra/GroupPower/Lemmas.lean:819]:
```suggestion
  fun x => {
    toFun := fun n => x ^ (Multiplicative.toAdd n)
    map_one' := zpow_zero x
    map_mul' := zpow_add x
    }
```

File: Mathlib/Algebra/GroupPower/Lemmas.lean [hunk 17]
```diff
@@ -2,35 +2,1316 @@
...
+    A ≃
+      (ℕ →+
+        A) where
+  toFun : A → ℕ →+ A :=
+  fun x =>
+    {
+    toFun := fun n => n • x
+    map_zero' := zero_nsmul x
+    map_add' := fun _ _ => add_nsmul _ _ _
+  }
```
Comment (kbuzzard) [inline Mathlib/Algebra/GroupPower/Lemmas.lean:837]: I can't say I understand the spacing conventions in Lean 4 but I doubt the `{}` are supposed to be misaligned (don't ask me which one to change though...)

File: Mathlib/Algebra/GroupPower/Lemmas.lean [hunk 18]
```diff
@@ -2,35 +2,1316 @@
...
+  invFun f := f 1
+  left_inv := one_nsmul
+  right_inv f := AddMonoidHom.ext_nat <| one_nsmul (f 1)
+#align multiples_hom multiplesHom
+
+/-- Additive homomorphisms from `ℤ` are defined by the image of `1`. -/
+def zmultiplesHom [AddGroup A] :
+    A ≃
+      (ℤ →+
+        A) where
```
Comment (kbuzzard) [inline Mathlib/Algebra/GroupPower/Lemmas.lean:847]: One line not 3?

File: Mathlib/Algebra/GroupPower/Lemmas.lean [hunk 19]
```diff
@@ -2,35 +2,1316 @@
...
+@[simp]
+theorem zmultiples_hom_symm_apply [AddGroup A] (f : ℤ →+ A) : (zmultiplesHom A).symm f = f 1 :=
+  rfl
+#align zmultiples_hom_symm_apply zmultiples_hom_symm_apply
+
+attribute [to_additive zmultiples_hom_symm_apply] zpowers_hom_symm_apply
+
+-- TODO use to_additive in the rest of this file
+theorem MonoidHom.apply_mnat [Monoid M] (f : Multiplicative ℕ →* M) (n : Multiplicative ℕ) :
+    f n = f (Multiplicative.ofAdd 1) ^ (Multiplicative.toAdd n) := by
```
Comment (kbuzzard) [inline Mathlib/Algebra/GroupPower/Lemmas.lean:918]: I think the reason `n.toAdd` is not working is that the coercion to function is not kicking in before Lean 4 gives up, BTW

File: Mathlib/Algebra/GroupPower/Lemmas.lean [hunk 20]
```diff
@@ -2,35 +2,1316 @@
...
+
+/-! `add_monoid_hom.ext_int` is defined in `data.int.cast` -/
+
+
+variable (M G A)
+
+/-- If `M` is commutative, `powers_hom` is a multiplicative equivalence. -/
+def powersMulHom [CommMonoid M] : M ≃* (Multiplicative ℕ →* M) :=
+  { powersHom M with map_mul' := fun a b => MonoidHom.ext (
+    by
```
Comment (kbuzzard) [inline Mathlib/Algebra/GroupPower/Lemmas.lean:955]: This is a `simp` call which is broken by the port so you should flag this with a porting note, and ideally try and figure out the missing simp lemma which made the proof break.

File: Mathlib/Algebra/GroupPower/Lemmas.lean [hunk 21]
```diff
@@ -2,35 +2,1316 @@
...
+      show (a*b) ^ n' = a ^ n' * b ^ n'
+      simp [mul_pow]
+    ) }
+#align powers_mul_hom powersMulHom
+
+/-- If `M` is commutative, `zpowers_hom` is a multiplicative equivalence. -/
+def zpowersMulHom [CommGroup G] : G ≃* (Multiplicative ℤ →* G) :=
+  { zpowersHom G with map_mul' := fun a b => MonoidHom.ext (
+    by
+      intro n
```
Comment (kbuzzard) [inline Mathlib/Algebra/GroupPower/Lemmas.lean:967]: Ditto. If we let small simp proofs break then it will be harder to fix bigger problems later.

File: Mathlib/Algebra/GroupPower/Lemmas.lean [hunk 22]
```diff
@@ -2,35 +2,1316 @@
...
+      let n' : ℤ   := Multiplicative.toAdd n
+      show (a*b) ^ n' = a ^ n' * b ^ n'
+      simp [mul_zpow]
+    )
+  -- <| by simp [mul_zpow]
```
Comment (kbuzzard) [inline Mathlib/Algebra/GroupPower/Lemmas.lean:972]: add `porting note` and note the regression

File: Mathlib/Algebra/GroupPower/Lemmas.lean [hunk 23]
```diff
@@ -2,35 +2,1316 @@
...
+  }
+#align zpowers_mul_hom zpowersMulHom
+
+/-- If `M` is commutative, `multiples_hom` is an additive equivalence. -/
+def multiplesAddHom [AddCommMonoid A] : A ≃+ (ℕ →+ A) :=
+  { multiplesHom A with map_add' := fun a b => AddMonoidHom.ext (
+    by
+    intro n
+    show n •  (a+b) = n • a + n • b
+    simp [nsmul_add]
```
Comment (kbuzzard) [inline Mathlib/Algebra/GroupPower/Lemmas.lean:982]: add porting note

File: Mathlib/Algebra/GroupPower/Lemmas.lean [hunk 24]
```diff
@@ -2,35 +2,1316 @@
...
+
+namespace Commute
+
+section
+
+variable [Semiring R] {a b : R}
+
+@[simp]
+theorem cast_nat_mul_right (h : _root_.Commute a b) (n : ℕ) : _root_.Commute a ((n : R) * b) :=
+  SemiconjBy.cast_nat_mul_right h n
```
Comment (kbuzzard) [inline Mathlib/Algebra/GroupPower/Lemmas.lean:1117]: That's really annoying that we can't use dot notation here. Lean incorrectly interprets `h.cast_nat_mul_right` as `Commute.cast_nat_mul_right` and complains that our definition is recursive. Reported here https://leanprover.zulipchat.com/#narrow/stream/270676-lean4/topic/incorrect.20assumption.20about.20dot.20notation.20declaration.20name/near/316626502

File: Mathlib/Algebra/GroupPower/Lemmas.lean [hunk 25]
```diff
@@ -2,35 +2,1316 @@
...
+end SemiconjBy
+
+namespace Commute
+
+section
+
+variable [Semiring R] {a b : R}
+
+@[simp]
+theorem cast_nat_mul_right (h : _root_.Commute a b) (n : ℕ) : _root_.Commute a ((n : R) * b) :=
```
[the remark this answers is not in the document]
Comment (kbuzzard) [reply Mathlib/Algebra/GroupPower/Lemmas.lean:1116]: Oh actually here's a much better idea! Remove `open Function` on line 25 and then change all 24 occurrences of `_root_.Commute` to `Commute` and the file still compiles!

**Review by kbuzzard — APPROVED** [review]
This looks great to me. I left a bunch of comments, most of them trivial.

File: Mathlib/Algebra/GroupPower/Lemmas.lean [hunk 26]
```diff
@@ -2,35 +2,1316 @@
...
+  (Commute.refl a).cast_int_mul_cast_int_mul m n
+#align commute.self_cast_int_mul_cast_int_mul Commute.self_cast_int_mul_cast_int_mul
+
+end Commute
+
+section Multiplicative
+
+open Multiplicative
+
+-- Porting note: the proof became a little roundabout while porting.
```
Comment (kbuzzard) [inline Mathlib/Algebra/GroupPower/Lemmas.lean:1236]: It's because you have `Nat` open. I can fix it!

File: Mathlib/Algebra/GroupPower/Lemmas.lean [hunk 27]
```diff
@@ -2,35 +2,1316 @@
...
+@[simp]
+theorem Nat.to_add_pow (a : Multiplicative ℕ) (b : ℕ) : toAdd (a ^ b) = toAdd a * b := by
+  induction' b with b ihs
+  · have l : a ^ zero = zero := by simp
+    rw [l]
+    apply mul_zero (↑(toAdd a) : ℕ)
+  · rw [← npow_eq_pow, Monoid.npow_succ, npow_eq_pow, toAdd_mul, ihs]
+    simp [add_comm, Nat.mul_succ]
```
Comment (kbuzzard) [inline Mathlib/Algebra/GroupPower/Lemmas.lean:1244]:
```suggestion
  · erw [_root_.pow_zero, toAdd_one, mul_zero]
  · simp [*, _root_.pow_succ, add_comm, Nat.mul_succ]
```

**Review by kbuzzard — COMMENTED** [review]
golf a proof (and make it more like the autoported version)

File: Mathlib/Algebra/GroupPower/Lemmas.lean (hunk 11 above)
Comment (siddhartha-gadgil) [reply Mathlib/Algebra/GroupPower/Lemmas.lean:594]: This was Scott Morrison's advice in the cases where the alignment was not exact.

File: Mathlib/Algebra/GroupPower/Lemmas.lean (hunk 14 above)
Comment (siddhartha-gadgil) [reply Mathlib/Algebra/GroupPower/Lemmas.lean:794]: Thanks. Made changes

File: Mathlib/Algebra/GroupPower/Lemmas.lean (hunk 20 above)
Comment (siddhartha-gadgil) [reply Mathlib/Algebra/GroupPower/Lemmas.lean:953]: Added porting note. Figuring out reason for breaking is beyond my skills.

File: Mathlib/Algebra/GroupPower/Lemmas.lean (hunk 21 above)
Comment (siddhartha-gadgil) [reply Mathlib/Algebra/GroupPower/Lemmas.lean:965]: Again, porting note added.

File: Mathlib/Algebra/GroupPower/Lemmas.lean (hunk 23 above)
Comment (siddhartha-gadgil) [reply Mathlib/Algebra/GroupPower/Lemmas.lean:980]: done again

File: Mathlib/Algebra/GroupPower/Lemmas.lean (hunk 25 above)
[the remark this answers is not in the document]
Comment (siddhartha-gadgil) [reply Mathlib/Algebra/GroupPower/Lemmas.lean:1114]: Thanks. That fixes it.

File: Mathlib/Algebra/GroupPower/Lemmas.lean (hunk 27 above)
Comment (siddhartha-gadgil) [reply Mathlib/Algebra/GroupPower/Lemmas.lean:1242]: Thanks.

File: Mathlib/Algebra/GroupPower/Lemmas.lean [hunk 28]
```diff
@@ -2,35 +2,1316 @@
...
+theorem abs_add_eq_add_abs_iff (a b : α) : |a + b| = |a| + |b| ↔ 0 ≤ a ∧ 0 ≤ b ∨ a ≤ 0 ∧ b ≤ 0 := by
+  obtain ab | ab := le_total a b
+  · exact abs_add_eq_add_abs_le ab
+  · rw [add_comm a, add_comm (abs _), abs_add_eq_add_abs_le ab, and_comm, @and_comm (b ≤ 0)]
+#align abs_add_eq_add_abs_iff abs_add_eq_add_abs_iff
+
+end LinearOrderedAddCommGroup
+
+@[simp]
+theorem WithBot.coe_nsmul [AddMonoid A] (a : A) (n : ℕ) : (n • a : A) = n • (a : WithBot A) :=
```
[the remark this answers is not in the document]
Comment (siddhartha-gadgil) [reply Mathlib/Algebra/GroupPower/Lemmas.lean:466]: Thanks. Made the change with the coercion explicit but without the type annotation.

File: Mathlib/Algebra/GroupPower/Lemmas.lean [hunk 29]
```diff
@@ -2,35 +2,1316 @@
...
+#align zsmul_le_zsmul_iff' zsmul_le_zsmul_iff'
+
+@[to_additive]
+theorem zpow_lt_zpow_iff' (hn : 0 < n) {a b : α} : a ^ n < b ^ n ↔ a < b :=
+  (zpow_strict_mono_left α hn).lt_iff_lt
+#align zpow_lt_zpow_iff' zpow_lt_zpow_iff'
+#align zsmul_lt_zsmul_iff' zsmul_lt_zsmul_iff'
+
+@[to_additive zsmul_right_injective
+      "See also `smul_right_injective`. TODO: provide a
```
[the remark this answers is not in the document]
Comment (siddhartha-gadgil) [reply Mathlib/Algebra/GroupPower/Lemmas.lean:390]: @riccardobrasca please look at this (in code you ported)

File: Mathlib/Algebra/GroupPower/Lemmas.lean (hunk 16 above)
Comment (siddhartha-gadgil) [reply Mathlib/Algebra/GroupPower/Lemmas.lean:815]: Done thanks

File: Mathlib/Algebra/GroupPower/Lemmas.lean (hunk 12 above)
Comment (siddhartha-gadgil) [reply Mathlib/Algebra/GroupPower/Lemmas.lean:748]: Done. Thanks

File: Mathlib/Algebra/GroupPower/Lemmas.lean (hunk 18 above)
Comment (siddhartha-gadgil) [reply Mathlib/Algebra/GroupPower/Lemmas.lean]: Done.

File: Mathlib/Algebra/GroupPower/Lemmas.lean (hunk 22 above)
Comment (siddhartha-gadgil) [reply Mathlib/Algebra/GroupPower/Lemmas.lean:965]: Done

File: Mathlib/Algebra/GroupPower/Lemmas.lean (hunk 26 above)
Comment (siddhartha-gadgil) [reply Mathlib/Algebra/GroupPower/Lemmas.lean:1230]: Used your fix. Thanks.

File: Mathlib/Algebra/GroupPower/Lemmas.lean (hunk 17 above)
Comment (siddhartha-gadgil) [reply Mathlib/Algebra/GroupPower/Lemmas.lean:831]: changed, but don't know if this is correct

File: Mathlib/Algebra/GroupPower/Lemmas.lean (hunk 13 above)
Comment (siddhartha-gadgil) [reply Mathlib/Algebra/GroupPower/Lemmas.lean:746]: Done. Took a shortcut and reduced the new lemma to the old one, though there is presumably a shorter proof.

**Comment by ChrisHughes24** [comment]
bors merge
